US05852017
a) Preparation of 3,4-diacetamido-1-chlorobenzene
28.4 g (0.2 mol) of 4-chloro-1,2-phenylenediamine were dissolved in 130 ml of 3 molar hydrochloric acid and diluted with 300 ml of water. 51 g (0.5 mol) of acetic anhydride were added dropwise and then the reaction mixture was stirred at room temperature for 30 minutes, 41 g (0.6 mol) of sodium acetate were added, and the mixture was extracted with ethyl acetate. Workup of the organic phase resulted in a yield of 21% of the product.

reactant | 4-chloro-1,2-phenylenediamine | 0.2 mol, 28.4 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | acetic anhydride | 0.5 mol, 51 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.6 mol, 41 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 3 molar, 130 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 3,4-diacetamido-1-chlorobenzene | yield of 21% | C(C)(=O)NC=1C=C(C=CC1NC(C)=O)Cl | C10H11ClN2O2
